US04627933
28.8 g of p-(trans-4-pentylcyclohexyl)-phenylacetic acid is boiled for 1 hour with 24 g of SOCl2 ; the mixture is evaporated; the crude acid chloride obtained is dissolved in 150 ml of toluene, 8 ml of pyridine and 13.3 g of p-cyanobenzyl alcohol are added; and the mixture is boiled for 2 hours. Cooling and working up in a customary manner give p-cyanobenzyl p-(trans-4-pentylcyclohexyl)-phenylacetate, m.p. 85°, c.p. 30°.

reactant | p-(trans-4-pentylcyclohexyl)-phenylacetic acid | 28.8 g | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CC(=O)O | C19H28O2
reactant | SOCl2 | 24 g | O=S(Cl)Cl | Cl2OS
reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
reactant | p-cyanobenzyl alcohol | 13.3 g | C(#N)C1=CC=C(CO)C=C1 | C8H7NO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | p-cyanobenzyl p-(trans-4-pentylcyclohexyl)-phenylacetate | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CC(=O)OCC1=CC=C(C=C1)C#N | C27H33NO2
